US04548926
N-Benzyloxycarbonyl-3-(1-naphthyl)-L-alanyl-L-histidyl-L-leucinal(Compound No. 3)
A solution of 200 mg. of N-benzyloxycarbonyl-3-(1-naphthyl)-L-alanyl-L-histidyl-L-leucinal semicarbazone in 2 ml. of the upper layer of a 4:1:5 by volume mixture of 1-butanol, glacial acetic acid and water was subjected to partition chromatography on a Sephadex (trade mark) G-25 column (column size: 2.5 cm. inner diameter×100.5 cm. length) and eluted with the same solvent as above. Fractions coloured with Pauli's reagent and 2,4-dinitrophenylhydrazine were collected and the solvent was removed under reduced pressure from the collected fractions. When diethyl ether was added to the residue, there were obtained 96 mg. of the desired compound as a white powdery solid, melting at 106°-108° C.; [α]22 -49.0° (C=0.5, methanol).

reactant | N-benzyloxycarbonyl-3-(1-naphthyl)-L-alanyl-L-histidyl-L-leucinal semicarbazone | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC2=CC=CC=C12)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C=NNC(=O)N | C34H40N8O5
reactant | 1-butanol | C(CCC)O | C4H10O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | N-Benzyloxycarbonyl-3-(1-naphthyl)-L-alanyl-L-histidyl-L-leucinal | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC2=CC=CC=C12)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C=O | C33H37N5O5
